US07166623B2
N-Dicyclopropylmethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and dicyclopropylmethylamine using method I.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | dicyclopropylmethylamine | C1(CC1)C(C1CC1)N | C7H13N
product | N-Dicyclopropylmethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C1(CC1)C(NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)C1CC1 | C24H25N3O2
